US07148357B2
Production of 2-{[2-(2-Oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic Acid
700 mg (2.15 mmol) of 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic acid methyl ester is mixed in 15 ml of methanol with 2.7 ml of 1N sodium hydroxide solution and refluxed for 1 hour. After the methanol is distilled off in a vacuum, it is diluted with water and shaken once with ethyl acetate. The aqueous phase is mixed with 5 ml of 1 mol citric acid solution and stirred overnight. The solid precipitation is suctioned off and very quickly dried. 600 mg of 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic acid, which is used as a crude product in the next stage, is obtained.

reactant | 2-{[2-(2-oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic acid methyl ester | 2.15 mmol, 700 mg | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)N1C(CCC1)=O)=O | C18H19N3O3
reactant | sodium hydroxide | 1N, 2.7 ml | [OH-].[Na+]
reactant | citric acid | 1 mol, 5 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 15 ml | CO | CH4O
product | 2-{[2-(2-Oxo-pyrrolidin-1-yl)-pyridin-4-ylmethyl]-amino}-benzoic Acid | O=C1N(CCC1)C1=NC=CC(=C1)CNC1=C(C(=O)O)C=CC=C1 | C17H17N3O3
